US08211882B2
5-Chloro-2-hydroxy-N-(3-vinylphenyl)benzamide (Compound 11).
This material was prepared according to the method of Example 1 using 5-chlorosalicylic acid and 3-vinylaniline, with reagents and solvents employed in similar molar ratios. 1HNMR (500 MHz, DMSO-d6): δ 5.32 (m, 1H, C═CH2 cis), 5.83 (m, 1H, C═CH2 trans), 6.75 (m, 1H, ArCH═CH2), 7.02 (m, 1H, H3), 7.28 (m, 1H, H6′), 7.37 (m, 1H, H5′), 7.49 (m, 1H, H4), 7.62 (m, 1H, H4′), 7.80 (m, 1H, H2′), 7.90 (m, 1H, H6).

reactant | 5-chlorosalicylic acid | ClC1=CC=C(C(C(=O)O)=C1)O | C7H5ClO3
reactant | 3-vinylaniline | C(=C)C=1C=C(N)C=CC1 | C8H9N
product | 5-Chloro-2-hydroxy-N-(3-vinylphenyl)benzamide | ClC=1C=CC(=C(C(=O)NC2=CC(=CC=C2)C=C)C1)O | C15H12ClNO2
